US06809090B2
39.1) 2-[(4-nitrobenzyl)oxy]-10H-phenothiazine
1.08 g (5 mmol) of 2-hydroxy-10H-phenothiazine (J. Med. Chem. (1992) 35, 716) is dissolved, under argon atmosphere, in 20 ml anhydrous THF in a flask. The solution is then cooled down to 0° C. and 0.22 g (5.5 mmol) of NaH (60%) is added by portions. After agitation for 15 minutes, 1.2 g (5.5 mmol) of 4-nitrobenzyl bromide is added by portions and the reaction mixture is agitated for 15 hours at 20° C. before being poured into 50 ml of ice-cooled water. The product is extracted twice with 25 ml CH2Cl2 and the organic solution is washed successively with 25 ml of water and 25 ml of salt water. After drying over MgSO4, filtration and concentration under vacuum, the evaporation residue is purified on a silica column (eluent: CH2Cl2/EtOH: 99/1 to 98/2). After concentration of the purest fractions, a maroon solid is obtained, which is recrystallized using isopropyl acetate. A maroon solid is finally obtained with a yield of 37%.

reactant | 2-hydroxy-10H-phenothiazine | 5 mmol, 1.08 g | OC1=CC=2NC3=CC=CC=C3SC2C=C1 | C12H9NOS
reactant | NaH | 5.5 mmol, 0.22 g | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 5.5 mmol, 1.2 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[(4-nitrobenzyl)oxy]-10H-phenothiazine | yield of 37% | [N+](=O)([O-])C1=CC=C(COC2=CC=3NC4=CC=CC=C4SC3C=C2)C=C1 | C19H14N2O3S
